US07872031B2
A mixture of 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (250 mg, 0.63 mmol), tert-butyl 2-bromo-4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate (198 mg, 0.63 mmol), and NaHCO3 (1.56 mL, saturated solution in H2O) in N,N-dimethylformamide (8.3 mL) was degassed with a nitrogen stream for 20 min. To this mixture was added [1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) dichloride (46 mg, 0.06 mmol) and the reaction was stirred in a microwave for 10 min at 120° C. The resulting crude mixture was diluted with ethyl acetate (30 mL) and filtered. The filtrate washed with H2O (2×15 mL) and brine (1×15 mL), concentrated under reduced pressure, and purified via silica gel chromatography to provide tert-butyl 2-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate. This material (137 mg, 0.27 mmol) was treated with HCl (4 mL, 4.0 N in dioxane) for 1 hr, and solvent was removed under reduced pressure. The residue was dissolved in MeOH (500 mL) and treated with cold diethyl ether (15 mL). The resulting precipitate was collected and dried in vacuo to provide the hydrochloride salt of 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)pyridin-2-amine as a bright yellow solid (103 mg, 37% yield over two steps); 1H NMR (DMSO-d6): 9.50 (s, 2H), 8.44 (d, J=2.4 Hz, 1H), 7.85-7.46 (m, 4H), 7.05 (s, 1H), 4.29 (s, 2H), 3.39-3.25 (m, 2H), 2.85-2.81 (m, 2H); ES-MS: m/e=412.2 (M+H).

reactant | 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.63 mmol, 250 mg | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C18H19BF2N6O2
reactant | tert-butyl 2-bromo-4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate | 0.63 mmol, 198 mg | BrC1=CC2=C(CN(CC2)C(=O)OC(C)(C)C)S1 | C12H16BrNO2S
reactant | NaHCO3 | 1.56 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 8.3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]palladium (II) dichloride | 0.06 mmol, 46 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 2-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-4,5-dihydrothieno[2,3-c]pyridine-6(7H)-carboxylate | NC1=C(C=C(C=N1)C1=CC2=C(CN(CC2)C(=O)OC(C)(C)C)S1)C1=NN=NN1C1=C(C(=CC=C1)F)F | C24H23F2N7O2S
